US06352839B1
20 ml of distilled water and 20 ml of 12 N hydrochloric acid are placed, with stirring, in a three-necked flask, and 10 ml of 3-methylthioaniline are then added using a dropping funnel. The mixture is warmed to ensure dissolution and is then cooled down to 5° C. 5.86 g of sodium nitrite dissolved in 15 ml of water are subsequently added slowly, using a dropping funnel, while maintaining the temperature between 5 and 8° C. 20 min after having completed the addition, 13.57 g of potassium iodide dissolved in 15 ml of water are added over a period of 10 min and the mixture is then stirred at room temperature for 15 h. The oil which forms is separated from the aqueous phase by decantation, and an aqueous solution of sodium thiosulphate is then added to it. The aqueous phase is decanted and the product is extracted with 100 ml of dichloromethane. The organic phase is washed with 100 ml of water, and the aqueous phase is adjusted to pH 9 with concentrated sodium hydroxide solution, and then separated off. The organic phase is washed with 2 times 100 ml of water, separated off, dried over magnesium sulphate, filtered and then concentrated to dryness under reduced pressure (50 kPa) at 40° C. The resulting product is purified by flash chromatography (eluent, cyclohexane) in order to yield 13 g of 3-iodo-1-methylthiobenzene in the form of a yellow liquid (Merck Silica 5719, Rf=0.8/cyclohexane).

reactant | hydrochloric acid | 12 N, 20 ml | Cl | ClH
reactant | 3-methylthioaniline | 10 ml | CSC=1C=C(N)C=CC1 | C7H9NS
reactant | sodium nitrite | 5.86 g | N(=O)[O-].[Na+]
reactant | potassium iodide | 13.57 g | [I-].[K+]
solvent | water | 15 ml | O | H2O
solvent | water | 15 ml | O | H2O
solvent | water | 20 ml | O | H2O
product | 3-iodo-1-methylthiobenzene | 13 g | IC=1C=C(C=CC1)SC | C7H7IS
